US04003901
1-(2-Chloroethyl)-1-nitroso-3-[(2-methyl-3-hydroxy-5-hydroxymethylpyridine-4-yl)methyl]-urea.hydrochloride
To a solution of 1 g. of 1-(2-chloroethyl)-3-[(2-methyl-3-hydroxy-5-hydroxymethylpyridine-4-yl)methyl] urea.hydrochloride in 10 ml. of 5% hydrochloric acid was added gradually 0.4 g. of sodium nitrite at 0° - 5° C. while stirring. After completion of the addition, the reaction mixture was stirred at 0° - 5° C. for additional 1.5 hours. The crystalline substances separated in situ during the stirring were recovered by filtration and recrystallized from 8 ml. of ethanol to give 0.1 g. of the pure desired product having pale yellow color and a decomposition point of 171° C.

reactant | 1-(2-chloroethyl)-3-[(2-methyl-3-hydroxy-5-hydroxymethylpyridine-4-yl)methyl] urea.hydrochloride | Cl.ClCCNC(=O)NCC1=C(C(=NC=C1CO)C)O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 1-(2-Chloroethyl)-1-nitroso-3-[(2-methyl-3-hydroxy-5-hydroxymethylpyridine-4-yl)methyl]-urea.hydrochloride | Cl.ClCCN(C(=O)NCC1=C(C(=NC=C1CO)C)O)N=O | InChI=1S/C11H15ClN4O4.ClH/c1-7-10(18)9(8(6-17)4-13-7)5-14-11(19)16(15-20)3-2-12;/h4,17-18H,2-3,5-6H2,1H3,(H,14,19);1H
